US05866588
Pyridine (110 μl, 1.36 mmol) was added to a solution of 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-ol (227 mg, 0.68 mmol) in DCM (3 ml) under an inert atmosphere. Acetyl chloride (72 μl, 1.02 mmol) was added and the reaction stirred for 18 hours at room temperature. The reaction mixture was partitioned between DCM and brine. The organic layer was separated, dried over sodium sulphate, filtered and concentrated under vacuum to leave a brown oil. The product was purified by column chromatography on silica gel eluting with 5% methanol/DCM. Product containing fractions were combined and solvent removed to yield 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-yl acetate as a brown gum (184 mg, 73%). 1H-NMR; δ (CDCl3), 7.49 (1H, t, J=7.8 Hz), 7.24 (2H, d, J=7.9 Hz), 7.18-7.11 (2H, m), 7.06 (2H, d, J=7.9 Hz), 6.91-6.66 (3H, m), 4.79 (2H, dd, J=5.4, 0.7 Hz), 3.72 (2H, m), 3.20 (4H, bm), 2.40 (3H, s), 2.12 (3H, s) and 2.11-2.02 (4H, m).

reactant | Pyridine | 1.36 mmol, 110 μl | N1=CC=CC=C1 | C5H5N
reactant | 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-ol | 0.68 mmol, 227 mg | N1(CCCC1)C/C=C(\C1=CC=C(C=C1)C)/C1=CC=CC(=N1)/C=C/CO | C22H26N2O
reactant | Acetyl chloride | 1.02 mmol, 72 μl | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | 3-(6-[3-pyrrolidino-1-{4-tolyl}-prop-1E-enyl]-pyridin-2-yl)-prop-2E-en-1-yl acetate | 184 mg, 73% | C(C)(=O)OC\C=C\C1=NC(=CC=C1)\C(=C\CN1CCCC1)\C1=CC=C(C=C1)C | C24H28N2O2
